US08957070B2
Ethyl 4-fluoro-1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate
A mixture of ethyl 4-fluoro-1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate (455 mg), methyl iodide (0.103 mL), potassium carbonate (183 mg) and N,N-dimethylformamide (10 mL) was stirred at room temperature for 18 hr. The reaction solution was diluted with ethyl acetate, washed with aqueous citric acid solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (0.45 g, yield 96%) as pale-pink crystals.

reactant | ethyl 4-fluoro-1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 455 mg | FC1=C2C=C(N(C2=C(C=C1)NS(=O)(=O)C=1SC=CC1)COC)C(=O)OCC | C17H17FN2O5S2
reactant | methyl iodide | 0.103 mL | CI | CH3I
reactant | potassium carbonate | 183 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 4-fluoro-1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 0.45 g, yield 96% | FC1=C2C=C(N(C2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)COC)C(=O)OCC | C18H19FN2O5S2
